US09193741B2
Synthesis of 2-(4-fluorophenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine
This compound was synthesized from tert-butyl 4-(5-amino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate using 3-(4-fluorophenyl)propionic acid, yielding the title compound in 80% yield.

reactant | tert-butyl 4-(5-amino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate | NC=1C(=NC=NC1S)N1CCN(CC1)C(=O)OC(C)(C)C | C13H21N5O2S
reactant | 3-(4-fluorophenyl)propionic acid | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
product | 2-(4-fluorophenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine | 80% yield | FC1=CC=C(CCC=2SC=3N=CN=C(C3N2)N2CCNCC2)C=C1 | C17H18FN5S
